US07964618B2
A solution of 2-methyl-6-chloronicotinic acid (300 mg, 1.75 mmol) and 1-hydroxybenzotriazole (260 mg, 1.92 mmol) was stirred in dichloromethane (25 ml) then triethylamine (561 ul, 4.02 mmol) and EDAC (401 mg, 2.1 mmol) were added and stirred for 5 minutes then cyclohexylamine (201 ul, 1.75 mmol) was added and the reaction was stirred for a further 16 hours at room temperature. The reaction was diluted with dichloromethane (25 ml), washed with sat. NaHCO3, 1M HCl, water, brine and dried over MgSO4, filtered and the solvent evaporated to give 6-chloro-2-methyl-N-cyclohexylnicotinamide (340 mg, 77%) as a fawn coloured powder

reactant | 2-methyl-6-chloronicotinic acid | 1.75 mmol, 300 mg | CC1=C(C(=O)O)C=CC(=N1)Cl | C7H6ClNO2
reactant | 1-hydroxybenzotriazole | 1.92 mmol, 260 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 4.02 mmol, 561 ul | C(C)N(CC)CC | C6H15N
reactant | EDAC | 2.1 mmol, 401 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | cyclohexylamine | 1.75 mmol, 201 ul | C1(CCCCC1)N | C6H13N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 6-chloro-2-methyl-N-cyclohexylnicotinamide | 340 mg, 77% | ClC1=NC(=C(C(=O)NC2CCCCC2)C=C1)C | C13H17ClN2O
